US06114390
c) 4-(3-Methyl-1,2,4-oxadiazol-5-ylmethyl)benzenemethanamine-hydrochloride
Prepared analogously to Example 65i) by treating 5-[[4-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]phenyl]methyl]-3-methyl-1,2,4-oxadiazole with methanolic hydrogen chloride solution in a yield of 56% of theory.

reactant | 5-[[4-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]phenyl]methyl]-3-methyl-1,2,4-oxadiazole | CC(C)(OC(=O)NCC1=CC=C(C=C1)CC1=NC(=NO1)C)C | C16H21N3O3
reactant | hydrogen chloride | Cl | ClH
product | 4-(3-Methyl-1,2,4-oxadiazol-5-ylmethyl)benzenemethanamine-hydrochloride | yield of 56% | Cl.CC1=NOC(=N1)CC1=CC=C(C=C1)CN | InChI=1S/C11H13N3O.ClH/c1-8-13-11(15-14-8)6-9-2-4-10(7-12)5-3-9;/h2-5H,6-7,12H2,1H3;1H
